US04772706
1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carbonitrile (5.04 g) and 3-(tertbutyloxycarbonylamino)pyrrolidine (3.96 g) were combined in acetonitrile (48 ml). The mixture was heated to reflux at which point all the solids dissolved. After refluxing for 15-20 minutes a precipitate formed. Stirring was continued at reflux overnight (22 hours). Triethylamine (6 ml) was then added and refluxing continued another seven hours before cooling to room temperature. The solid was collected by filtration and then washed with acetonitrile (15 ml) followed by a solution of triethylamine (5 ml) in acetonitrile (5 ml). The solid was dried under vacuum at 50° C. to give 7-[3-(tert-butyloxycarbonylamino)pyrrolidin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carbonitrile (7.65 g, 93%), mp 249°-250° C. (dec).

reactant | 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carbonitrile | 5.04 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C#N | C13H7F3N2O
reactant | 3-(tertbutyloxycarbonylamino)pyrrolidine | 3.96 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | Triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 48 ml | C(C)#N | C2H3N
product | 7-[3-(tert-butyloxycarbonylamino)pyrrolidin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carbonitrile | 7.65 g, 93% | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C#N)=O)F | C22H24F2N4O3
